US05468722
4.4 Grams (0.017 mol) of 6-bromo-5-methylthiochroman-4-one was dissolved in 10 ml of methylene chloride and 10 ml of methanol. The solution was cooled to 0° C. with a salt water-ice bath. 0.32 Grams (0.0085 mol) of sodium borohydride was gradually added so that the temperature did not exceed 10° C. While the mixture was cooled with the ice bath, it was allowed to react for 1 hour. Then, the reaction mixture was poured into 100 ml of 5% hydrochloric acid, and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Added to the resultant oil were 20 ml of methanol and 0.3 g of concentrated sulfuric acid, arid the mixture was refluxed under heat for 2 hours. The reaction mixture was allowed to cool, poured into 200 ml of water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 4.3 g of 6-bromo-4-methoxy-5-methylthiochroman as oil.

reactant | 6-bromo-5-methylthiochroman-4-one | 0.017 mol | BrC=1C(=C2C(CCSC2=CC1)=O)C | C10H9BrOS
reactant | sodium borohydride | 0.0085 mol | [BH4-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 6-bromo-4-methoxy-5-methylthiochroman | 4.3 g | BrC=1C(=C2C(CCSC2=CC1)OC)C | C11H13BrOS
